US08497381B2
Step 5: [6-Methoxy-2′-(2-oxo-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid
To [6-methoxy-2′-(2-oxo-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester (0.117 g, 0.28 mmol) in THF (1.2 mL) and MeOH (0.9 mL) was added 1N aqueous NaOH (0.61 mL), and the reaction was stirred at room temperature for 1 hour. Once no starting material was seen by analytical LCMS, the mixture was diluted with CH2Cl2 and aqueous HCl. The aqueous layer was separated and extracted with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated. The crude material was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound. M+H is 410.

reactant | [6-methoxy-2′-(2-oxo-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | 0.28 mmol, 0.117 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(OCC1)=O)=O | C21H20F3NO5
reactant | NaOH | 1N, 0.61 mL | [OH-].[Na+]
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.9 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | HCl | Cl | ClH
product | [6-Methoxy-2′-(2-oxo-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | COC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CN1C(OCC1)=O)CC(=O)O | C20H18F3NO5
